US07968570B2
A mixture of 5-fluoro-7-iodo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.100 g, 0.22 mmol), Pd(PPh3)4 (0.022 g, 0.24 mmol), sodium cyanide (0.014 g, 0.285 mmol), and CuI (0.004 g, 0.022 mmol) in acetonitrile (5 mL) was stirred at 80° C. for 18 h. Workup and silica gel column chromatography using 2:1 hexanes-ethyl acetate afforded 6-fluoro-3-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-4-carbonitrile (0.035 g, 45%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.32 (s, 2H), 4.80 (s, 2H), 7.20 (d, 2H), 7.37 (m, 3H), 7.49 (d, 1H). GC-MS: m/z 350 (M)+.

reactant | 5-fluoro-7-iodo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.22 mmol, 0.100 g | FC=1C=C2CN(C(C2=C(C1)I)=O)CC1=CC=C(C=C1)OC(F)(F)F | C16H10F4INO2
reactant | sodium cyanide | 0.285 mmol, 0.014 g | [C-]#N.[Na+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
catalyst | Pd(PPh3)4 | 0.24 mmol, 0.022 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.022 mmol, 0.004 g | [Cu]I
product | 6-fluoro-3-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-4-carbonitrile | 0.035 g, 45% | FC=1C=C(C=2C(N(CC2C1)CC1=CC=C(C=C1)OC(F)(F)F)=O)C#N | C17H10F4N2O2
